US06998412B2
6-Bromo-1-(tetrahydro-2H-pyran-2-yloxy)-2-hexyne
Under argon flow, 13.46 g of 3-(tetrahydro-2H-pyran-2-yloxy)-1-propyne was dissolved in 135 ml of anhydrous tetrahydrofuran, and 60 ml of 1.6 N n-butyllithium hexane solution was added dropwise over 20 minutes with stirring at −10° C. of inner temperature. The mixture was stirred for 1 hour at the same temperature. After stirring for additional 1 hour at room temperature, the inner temperature was changed to −3° C., and 16.7 ml of hexamethylphosphoric triamide (HMPA) was added to the mixture. Then 58.14 g of 1,3-dibromopropane was added in a portion at −10° C. of inner temperature, and the mixture was stirred for 12 hours at room temperature. The reaction solution was poured into ice-cold water, extracted with ether, washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was distilled under reduced pressure to give 12.0 g of the objective compound as colorless oil.

reactant | 3-(tetrahydro-2H-pyran-2-yloxy)-1-propyne | 13.46 g | O1C(CCCC1)OCC#C | C8H12O2
reactant | n-butyllithium hexane | 1.6 N, 60 ml | CCCCCC.C(CCC)[Li]
reactant | hexamethylphosphoric triamide | 16.7 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | 1,3-dibromopropane | 58.14 g | BrCCCBr | C3H6Br2
solvent | tetrahydrofuran | 135 ml | O1CCCC1 | C4H8O
product | 6-Bromo-1-(tetrahydro-2H-pyran-2-yloxy)-2-hexyne | 12.0 g | BrCCCC#CCOC1OCCCC1 | C11H17BrO2
